US05883255
8A. (±)-8-Methyl-7-[1-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-methyl-1-oxopropyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one
To a mixture containing 2-methyl-2-[N-[(1,1-dimethylethoxy)carbonyl]amino]propionic acid (406 mg, 2.0 mmol) and dicyclohexylcarbodiimide (432 mg, 2.0 mmol) in CH2Cl2 (3 mL) under an argon atmosphere were added (±)-7-(1-hydroxypropyl)-8-methylindolizino[1,2-b]quinolin-9(11H)-one (153 mg, 0.5 mmol) and 4-dimethylaminopyridine (25 mg). The resulting mixture was allowed to stir at room temperature for 4 d and then was poured into CH2Cl2, washed successively with 5% aqueous NaHCO3, 0.5N HCl and H2O, and dried over sodium sulfate. Removal of the solvent in vacuo and purification of the residue by column chromatography (silica gel) eluting with a solvent gradient of 1.5-5% MeOH/CH2Cl2 afforded the title compound as an off-white solid. 1H NMR (CDCl3) d 8.33 (s, 1H), 8.20 (d, J=8.9 Hz, 1H), 7.90 (d, J=8.3 Hz, 1H), 7.80 (m, 1H), 7.62 (m, 1H), 7.33 (s, 1H), 5.92 (dd, J=7.5, 6.3 Hz, 1H), 5.25 (s, 2H), 5.10 (br s, 1H), 2.38 (s, 3H), 2.08-1.82 (m, 2H), 1.56 (s, 3H), 1.55 (s, 3H), 1.41 (s, 9H), 0.99 (t, J=7.4 Hz, 3H).

reactant | 2-methyl-2-[N-[(1,1-dimethylethoxy)carbonyl]amino]propionic acid | 2.0 mmol, 406 mg | CC(C(=O)O)(C)NC(=O)OC(C)(C)C | C9H17NO4
reactant | dicyclohexylcarbodiimide | 2.0 mmol, 432 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±)-7-(1-hydroxypropyl)-8-methylindolizino[1,2-b]quinolin-9(11H)-one | 0.5 mmol, 153 mg | OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C19H18N2O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (±)-8-Methyl-7-[1-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-methyl-1-oxopropyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(C(C)(C)NC(=O)OC(C)(C)C)=O)=O | C28H33N3O5
